* /home/subham109/downloads/esim-2.3/library/subcircuitlibrary/andg/andg.cir

xsc2 net-_sc1-pad1_ /a net-_sc2-pad3_ net-_sc2-pad3_ sky130_fd_pr__nfet_01v8 w=1 l=0.15
xsc1 net-_sc1-pad1_ /a /vdd /vdd sky130_fd_pr__pfet_01v8 w=1 l=0.15
xsc4 net-_sc1-pad1_ /b /vdd /vdd sky130_fd_pr__pfet_01v8 w=1 l=0.15
xsc3 net-_sc2-pad3_ /b gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.15
* u1  /a /b /vdd /y port
xsc5 /y net-_sc1-pad1_ /vdd /vdd sky130_fd_pr__pfet_01v8 w=1 l=0.15
xsc6 /y net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 w=1 l=0.15
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
