* /home/subham109/spice/esim/blocks_test/blocks_test.cir

.include andg.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
* u3  net-_u1-pad1_ net-_u1-pad2_ net-_u3-pad3_ orgate
* u1  net-_u1-pad1_ net-_u1-pad2_ gnd net-_u1-pad4_ net-_u1-pad5_ fa
* u4  net-_u1-pad1_ net-_u1-pad2_ net-_u4-pad3_ xor_gate
* u5  a b net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
v1  a gnd pulse(0 1.8 0 0.001n 0.001n 1n 2n)
v2  b gnd pulse(0 1.8 0 0.002n 0.002n 2n 3n)
* u6  net-_u1-pad4_ net-_u1-pad5_ sum carry dac_bridge_2
* u8  net-_u3-pad3_ or_out dac_bridge_1
* u9  net-_u4-pad3_ xor_out dac_bridge_1
x1 a b vdd and_out andg
v3 vdd gnd  dc 1.8
xsc2 sum gnd gnd sky130_fd_pr__res_generic_pd 
xsc5 carry gnd ? sky130_fd_pr__res_generic_pd 
xsc1 and_out net-_sc1-pad2_ net-_sc1-pad2_ sky130_fd_pr__res_generic_pd 
xsc3 or_out gnd gnd sky130_fd_pr__res_generic_pd 
xsc4 xor_out gnd gnd sky130_fd_pr__res_generic_pd 
* s c m o d e
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u3-pad3_ ] u3
a2 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [gnd ] [net-_u1-pad4_ ] [net-_u1-pad5_ ] u1
a3 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u4-pad3_ ] u4
a4 [a b ] [net-_u1-pad1_ net-_u1-pad2_ ] u5
a5 [net-_u1-pad4_ net-_u1-pad5_ ] [sum carry ] u6
a6 [net-_u3-pad3_ ] [or_out ] u8
a7 [net-_u4-pad3_ ] [xor_out ] u9
* Schematic Name:                             orgate, NgSpice Name: orgate
.model u3 orgate(rise_delay=0.0001n fall_delay=0.0001n input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             fa, NgSpice Name: fa
.model u1 fa(rise_delay=0.0001n fall_delay=0.0001n input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             xor_gate, NgSpice Name: xor_gate
.model u4 xor_gate(rise_delay=0.0001n fall_delay=0.0001n input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=0 in_high=1.8 rise_delay=0.0001n fall_delay=0.0001n ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0 out_high=1.8 out_undef=0.18 input_load=1.0e-12 t_rise=0.0001n t_fall=0.0001n ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0 out_high=1.8 out_undef=0.18 input_load=1.0e-12 t_rise=0.0001n t_fall=0.0001n ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0 out_high=1.8 out_undef=0.18 input_load=1.0e-12 t_rise=0.0001n t_fall=0.0001n ) 
.tran 0.001e-09 10e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
